US04885307
Stage A: 1,5-dihydro-5-isopropyloxy-2H-pyrrol-2-one.
A mixture of 3 g of 1,5-dihydro-5-hydroxy-2H-pyrrol-2-one, 1.5 g of Amberlite IR 120 H and 60 cm3 of isopropanol is taken to 45°-50° C. for 3 hours. After cooling, filtering and evaporating to dryness, 1.8 g of the expected product is obtained, m.p. 79°-81° C., crystallized from isopropanol.

reactant | 1,5-dihydro-5-hydroxy-2H-pyrrol-2-one | 3 g | OC1C=CC(N1)=O | C4H5NO2
reactant | isopropanol | 60 cm3 | C(C)(C)O | C3H8O
product | 1,5-dihydro-5-isopropyloxy-2H-pyrrol-2-one | 1.8 g | C(C)(C)OC1C=CC(N1)=O | C7H11NO2
